US05252601
Optional Step d2 : N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-phenylalanine
Dissolve N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-phenylalanine, methyl ester (158 mg, 0.36 mmol) in methanol (3 mL). Add a solution of lithium hydroxide hydrate (1 mL in water, 1 mmol) and stir at room temperature under argon overnight. Partition between 1N hydrochloric acid and methylene chloride. Separate the organic phase and extract the acidic phase with methylene chloride (2×10 mL). Combine the organic phases, dry (MgSO4) and evaporate the solvent in vacuo to give the title compound (149 mg, 97%).

reactant | N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-phenylalanine, methyl ester | 0.36 mmol, 158 mg | C(C)(C)(C)SCC1(CC2=CC=CC=C2CC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C26H33NO3S
reactant | lithium hydroxide hydrate | 1 mmol, 1 mL | O.[OH-].[Li+]
solvent | methanol | 3 mL | CO | CH4O
product | N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-phenylalanine | 149 mg, 97% | C(C)(C)(C)SCC1(CC2=CC=CC=C2CC1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C25H31NO3S
